US06586628B2
N-Octyl amine (3.09 g, 23.9 mmol) in 83 ml ethanol at 40° C. was reacted with an excess of 3-methoxybenzyl isothiocyanate (4.7 g, 26.2 mmol) for 2 h under N2 with stirring, then transferred to a 100 ml beaker, cooled to 4° C. and the crystals filtered off using Whatman 541 filter paper. The filtrate was evaporated to 20 ml and cooled to 4° C. to obtain a second crop of crystals. The remaining supernatant was dried and weighed. The first and second crop of crystals yielded 6.32 g, or 85.5% of the theoretical amount of 1-(3-methoxybenzyl-3-octyl thiourea. Calculated elemental analysis of 1-(3-methoxybenzyl)-3-octyl thiourea: C, 66.19; H, 9.15; N, 9.08; S, 10.39. Found: C, 66.21; H, 9.04; N, 9.07; S, 10.59.

reactant | N-Octyl amine | 23.9 mmol, 3.09 g | C(CCCCCCC)N | C8H19N
reactant | 3-methoxybenzyl isothiocyanate | 26.2 mmol, 4.7 g | COC=1C=C(CN=C=S)C=CC1 | C9H9NOS
solvent | ethanol | 83 ml | C(C)O | C2H6O
product | 3-methoxybenzyl-3-octyl thiourea | COC=1C=C(CNC(=S)NCCCCCCCC)C=CC1 | C17H28N2OS
